US08372823B2
3-(4-(Phenoxymethyl)phenyl)propanoic acid (S27).
A solution of ethyl 3-(4-(phenoxymethyl)phenyl)propanoate (S26, 185 mg, 0.65 mmol) in a THF/MeOH (1/1, 10 mL) was treated with aqueous 4 N NaOH (1 mL) and was stirred overnight at 25° C. The reaction mixture was concentrated, diluted with aqueous 1 N HCl and extracted with CH2Cl2. The organic layer was dried over Na2SO4, filtered and concentrated to afford S27 (115 mg, 0.45 mmol, 69%) as a pale yellow solid: 1H NMR (CDCl3, 500 MHz) 7.39 (d, 2H, J=7.7 Hz), 7.30 (t, 2H, J=7.4 Hz), 7.25 (d, 2H, J=7.7 Hz), 7.00-6.96 (m, 3H), 5.05 (s, 2H), 2.99 (t, 2H, J=7.7 Hz), 2.71 (t, 2H, J=7.7 Hz); 13C NMR (CDCl3, 125 MHz) 178.8, 158.7, 139.9, 135.1, 129.5, 128.5, 127.8, 120.9, 114.7, 69.7, 35.4, 30.2.

reactant | ethyl 3-(4-(phenoxymethyl)phenyl)propanoate | 0.65 mmol, 185 mg | O(C1=CC=CC=C1)CC1=CC=C(C=C1)CCC(=O)OCC | C18H20O3
reactant | NaOH | 4 N, 1 mL | [OH-].[Na+]
solvent | THF MeOH | 10 mL | C1CCOC1.CO
product | 3-(4-(Phenoxymethyl)phenyl)propanoic acid | O(C1=CC=CC=C1)CC1=CC=C(C=C1)CCC(=O)O | C16H16O3
